US06784192B2
1-[(5-Chloro-2-methoxy-3-pyridinyl)methyl]-4-[(E)-2-(2-fluorophenyl)-1-ethenyl]piperidine
200 mg of 5-chloro-2-methoxy-3-pyridinecarboxaldehyde and 263 mg of 4-[(E)-2-(2-fluorophenyl)-1-ethenyl]piperidine were dissolved in 5 ml of 1,2-dichloroethane. To the mixture were added 0.09 ml of acetic acid and 339 mg of sodium triacetoxyborohydride, followed by stirring at room temperature for 2.5 hours. The reaction solution was filtered through NH-form silica gel, and the filtrate was evaporated. Ethyl acetate was added to the residue, and the mixture was filtered through alumina, and the filtrate was evaporated. The crude product was purified by silica gel column chromatography (n-hexane:ethyl acetate=10:1), to give 245 mg of the title compound as a colorless oil.

reactant | 5-chloro-2-methoxy-3-pyridinecarboxaldehyde | 200 mg | ClC=1C=C(C(=NC1)OC)C=O | C7H6ClNO2
reactant | 4-[(E)-2-(2-fluorophenyl)-1-ethenyl]piperidine | 263 mg | FC1=C(C=CC=C1)/C=C/C1CCNCC1 | C13H16FN
reactant | acetic acid | 0.09 ml | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 339 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 5 ml | ClCCCl | C2H4Cl2
product | 1-[(5-Chloro-2-methoxy-3-pyridinyl)methyl]-4-[(E)-2-(2-fluorophenyl)-1-ethenyl]piperidine | 245 mg | ClC=1C=C(C(=NC1)OC)CN1CCC(CC1)\C=C\C1=C(C=CC=C1)F | C20H22ClFN2O
